US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 4.0 g of 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(4-dimethylaminophenyl)-3thiazolidinyl]-2-oxoethyl}ureido}benzoate and 4.2 cm3 of 1M tetrabutylammonium fluoride solution. The crude product is purified by chromatography on silica [eluent: ethyl acetate/methanol (90/10 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. After vigorous stirring in diisopropyl ether, 0.35 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(4-dimethylaminophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid is thus obtained in the form of an amorphous solid. ([α]D20 =+138°±3° (C=0.37%; CHCl3)) [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 6.7 (bd, 2H, (Me)2N--C6H4 in position 3 and 5); 7.3 and 7.6 (m, 5H, aromatic); 8.0 (bs, 1H, N--C6H4 -- in position 2). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2975, 2930, 2805, 2600, 1715, 1690, 1650, 1610, 1555, 1520, 1485, 1365, 1230, 1150, 815, 760, 685].

reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(4-dimethylaminophenyl)-3thiazolidinyl]-2-oxoethyl}ureido}benzoate | 4.0 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC=C(C=C1)N(C)C)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C31H44N4O6SSi
reactant | tetrabutylammonium fluoride | 1M, 4.2 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(4-dimethylaminophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.35 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC=C(C=C1)N(C)C)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C26H32N4O6S
